US07863443B2
Synthesis of N-(5-phenylpent-1-en-3-yl)benzamide
A Schlenk flask under argon was charged with {Ir(cod)Cl}2 (10 mg, 15 μmol, 3 mol %) and ligand (3,5-dioxa-4-phospha-cyclohepta[2,1-a; 3,4-a′]diphenyl-4-en)-dibenzo[b,f]azepine (12 mg, 30 μmol, 6 mol %). N,N-Dimethylformamide (2 mL) was added and the reaction mixture was stirred at 23° C. for 15 min. 5-Phenylpent-1-en-3-ol (81 mg, 0.50 mmol, 1 eq.) was added via syringe followed by the addition of solid sulfamic acid (49 mg, 0.50 mmol, 1 eq.). The resulting reaction mixture was heated to 50° C. Conversion was checked by disappearance of the starting material on TLC and/or by measuring 1H-NMR of an aliquot taken from the reaction mixture. After completion of the reaction (usually 3-4 hr), triethylamine (202 mg, 2.00 mmol, 4 eq.) and freshly distilled benzoyl chloride (141 mg, 1.00 mmol, 2 eq.) were added to the reaction mixture and the mixture was stirred for 4 hr at 23° C. Subsequently, the reaction mixture was partitioned between methylene chloride (10 mL) and water (10 mL). The aqueous layer was extracted with methylene chloride (3×15 mL). The combined organic layers were dried (sodium sulfate) and concentrated under reduced pressure. Purification of the residue by flash chromatography on silica gel using hexanes/ethyl acetate as an eluent afforded the title compound (97 mg, 0.37 mmol, yield 73%) as an off-white solid.

reactant | 5-Phenylpent-1-en-3-ol | 0.50 mmol, 81 mg, 1 eq. | C1(=CC=CC=C1)CCC(C=C)O | C11H14O
reactant | sulfamic acid | 0.50 mmol, 49 mg, 1 eq. | S(N)(O)(=O)=O | H3NO3S
reactant | triethylamine | 2.00 mmol, 202 mg, 4 eq. | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 1.00 mmol, 141 mg, 2 eq. | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | N,N-Dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | N-(5-phenylpent-1-en-3-yl)benzamide | 0.37 mmol, 97 mg, yield 73% | C1(=CC=CC=C1)CCC(C=C)NC(C1=CC=CC=C1)=O | C18H19NO
